US07612114B2
(4-Hydroxyphenyl)[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]methanone
To a solution of (6-methoxynaphthalen-2-yl)boronic acid in diethyl ether (60 ml) was added 1,3-propanediol (2.3 ml), the solution was stirred for 15 minutes at room temperature, then ethyl acetate (70 ml) was added thereto followed by stirring for 10 minutes at room temperature. To the reaction mixture was added anhydrous magnesium sulfate, the solution was stirred, then insoluble material was removed by filtration, the solvent was evaporated in vacuo. To the total amount of the resulting 2-(6-methoxynaphthalen-2-yl)[1.3.2]dioxaborinane crude product were sequentially added (2-bromo-5-methoxyphenyl)[4-(4-nitrobenzyloxy)phenyl]methanone (6.9 g), cesium carbonate (10.2 g), N,N-dimethylformamide (80 ml) and tetrakis(triphenylphosphine)palladium(0) (900 mg), and the solution was stirred for 10.5 hours at 80° C. Ethyl acetate and water were added thereto, insoluble material was removed by filtration, the solution was extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (brown foam) (4.1 g).

reactant | (6-methoxynaphthalen-2-yl)boronic acid | COC=1C=C2C=CC(=CC2=CC1)B(O)O | C11H11BO3
reactant | 1,3-propanediol | 2.3 ml | C(CCO)O | C3H8O2
reactant | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | diethyl ether | 60 ml | C(C)OCC | C4H10O
product | (4-Hydroxyphenyl)[5-methoxy-2-(6-methoxynaphthalen-2-yl)phenyl]methanone | 4.1 g | OC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC)C1=CC2=CC=C(C=C2C=C1)OC | C25H20O4
